US09079834B2
Step 1: preparation of methyl 4-{[(2S)-1-methoxy-1-oxopent-4-en-2-yl](pentyl)sulfamoyl}benzoate
To a stirred solution of methyl 4-{[(2S)-1-methoxy-1-oxopent-4-en-2-yl]sulfamoyl}benzoate (10.5 g, 32.1 mmol); prepared as described in Vacca et al. (WO 2009/042094 A2), 1-pentahol (8.48 g, 96 mmol) and triphenylphosphine (12.62 g, 48.1 mmol) in THF (321 mL) was slowly added diisopropyl azodicarboxylate (9.35 mL, 48.1 mmol). The reaction mixture was stirred at room temperature overnight and concentrated to dryness in vacuo. The residue was purified by flash chromatography on silica gel using EtOAc-hexanes to afford 11.5 g of the title compound. 1H NMR (DMSO-d6): δ 8.14 (d, J=8.16 Hz, 2H), 7.95 (d, J=8.18 Hz, 2H), 5.71-5.61 (m, 1H), 5.10 (d, J=17.20 Hz, 1H), 5.02 (d, J=10.31 Hz, 1H), 4.57 (dd, J=9.21, 5.98 Hz, 1H), 3.91 (s, 3H), 3.42 (s, 3H), 3.25-3.02 (m, 1H), 2.70-2.57 (m, 1H), 2.46-2.36 (m, 1H), 1.58-1.41 (m, 2H), 1.29-1.13 (m, 6H), 0.83 (t, J=7.15 Hz, 3H).

reactant | methyl 4-{[(2S)-1-methoxy-1-oxopent-4-en-2-yl]sulfamoyl}benzoate | 32.1 mmol, 10.5 g | COC([C@H](CC=C)NS(=O)(=O)C1=CC=C(C(=O)OC)C=C1)=O | C14H17NO6S
reactant | triphenylphosphine | 48.1 mmol, 12.62 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 48.1 mmol, 9.35 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 321 mL | C1CCOC1 | C4H8O
product | methyl 4-{[(2S)-1-methoxy-1-oxopent-4-en-2-yl](pentyl)sulfamoyl}benzoate | 11.5 g | COC([C@H](CC=C)N(S(=O)(=O)C1=CC=C(C(=O)OC)C=C1)CCCCC)=O | C19H27NO6S
